US07199147B2
Potassium cyanide (2.26 g, 34.7 mmol) was added to a solution of 2,3-dimethyl-4-nitrophenyl trifluoromethane-sulfonate (5.20 g, 17.4 mmol) in tetrahydrofuran (21 ml) at room temperature, followed by deaeration. After tetrakistriphenylphosphine (1.00 g, 0.865 mmol) was added thereto, deaeration was conducted again and then the reaction was carried out under reflux conditions for 10 hours. A 0.5M-aqueous potassium hydrogensulfate solution and then water were added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was dried over magnesium sulfate and distilled to remove the solvent, and the resulting residue was purified by a silica gel column chromatography (eluent: n-hexane/chloroform) to obtain 2,3-dimethyl-4-nitrobenzonitrile (2.79 g, 90.9%).

reactant | Potassium cyanide | 34.7 mmol, 2.26 g | [C-]#N.[K+]
reactant | 2,3-dimethyl-4-nitrophenyl trifluoromethane-sulfonate | 17.4 mmol, 5.20 g | FC(S(=O)(=O)OC1=C(C(=C(C=C1)[N+](=O)[O-])C)C)(F)F | C9H8F3NO5S
reactant | potassium hydrogensulfate | S(=O)(=O)(O)[O-].[K+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 21 ml | O1CCCC1 | C4H8O
product | 2,3-dimethyl-4-nitrobenzonitrile | 2.79 g, 90.9% | CC1=C(C#N)C=CC(=C1C)[N+](=O)[O-] | C9H8N2O2
